US04487929
In a manner analogous to that described in Example 1(D)(c), from 4 g of tert.butyl 2-ethyl-hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate and 5.43 g of S-(2-bromoethyl) thioacetate there was obtained tert.butyl 2-(2-acetylthioethyl)-2-ethyl-hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate as a mixture of diastereomers. Chromatography gave 1.1 g (20%) of diastereomer A having a melting point of 82°-84° C. (from diethyl ether/hexane) and 0.4 g (7%) of diastereomer B in the form of a colorless oil.

reactant | tert.butyl 2-ethyl-hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 4 g | C(C)C1C(N2N(CCCC2C(=O)OC(C)(C)C)C1=O)=O | C14H22N2O4
reactant | S-(2-bromoethyl) thioacetate | 5.43 g | C(C)(=O)SCCBr | C4H7BrOS
product | tert.butyl 2-(2-acetylthioethyl)-2-ethyl-hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | C(C)(=O)SCCC1(C(N2N(CCCC2C(=O)OC(C)(C)C)C1=O)=O)CC | C18H28N2O5S
